US06958403B2
Preparation of (±)-1-phenyl-5-(2,4-difluorophenyl)-4,5-dihydro-3-trifluoromethyl-1H-pyrazol, (±)-5
In a 50 mL beaker are introduced (E)-1,1,1-trifluoro-4-(2,4-difluorophenyl)-3-buten-2-one(2.66 g, 11.2 mmol), monohydrated p-toluensulphonic acid (2.1 g, 11.2 mmol) and phenylhydrazine chlorhydrate (1.33 g, 12.3 mmol) and heated to 110° C. A small amount of ethyl alcohol can be used to facilitate the initial mixture. After approximately 2 h (control by CCF) the mixture is allowed to cool and it is diluted with ethyl acetate. It is then washed with a saturated solution of NaHCO3, dried with MgSO4, filtered and the solvent evaporated at low pressure. The crude thus obtained (3.9 g) is recrystallised with methanol (2 mL) to precipitate 3.67 g (65%) of the pyrazoline (±)-5: pf=83–84° C.; IR (KBr) μ max (cm−1) 1600, 1505, 1326; 1H-RMN (CDCl3) δ (ppm): 7.28–6.72 (m, 8H), 5.64 (dd, J=13 Hz, J=7.5 Hz, 1H), 3.8–3.6 (m, 1H), 2.94 (dd, J=17.2 Hz, J=7 Hz, 1H).

reactant | (E)-1,1,1-trifluoro-4-(2,4-difluorophenyl)-3-buten-2-one | 11.2 mmol, 2.66 g | FC(C(\C=C\C1=C(C=C(C=C1)F)F)=O)(F)F | C10H5F5O
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | ethyl alcohol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-1-phenyl-5-(2,4-difluorophenyl)-4,5-dihydro-3-trifluoromethyl-1H-pyrazol | C1(=CC=CC=C1)N1N=C(CC1C1=C(C=C(C=C1)F)F)C(F)(F)F | C16H11F5N2
